US04410534
A solution of 8 g. of 1-(3-methansulfonyloxypropyl)pyrrol-2-acetonitrile (0.33 moles) in dry acetonitrile (270 ml.) containing dry sodium iodide (12.2 g., 0.081 moles) is stirred under reflux for 40 min. (t.l.c., silica gel, hexane-ethyl acetate, 1:1). The reaction is cooled to 40°, water (50 ml.) is added, and the solvent is then removed in vacuo almost to dryness. To the residue is added saturated sodium chloride solution (300 ml.) and dichloromethane (350 ml.). The organic phase is separated combined with the dichloromethane extracts of the aqueous phase (3×150 ml.), and washed successively with saturated sodium chloride solution, saturated sodium sulfite solution (once) and dilute sodium chloride solution. The solution is dried with sodium sulfate and evaporated in vacuo giving 1-(3-iodopropyl)pyrrol-2-acetonitrile which is an oil (7.7 g) having the following characteristics:

reactant | 1-(3-methansulfonyloxypropyl)pyrrol-2-acetonitrile | 0.33 moles | CS(=O)(=O)OCCCN1C(=CC=C1)CC#N | C10H14N2O3S
reactant | sodium iodide | 0.081 moles, 12.2 g | [I-].[Na+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | water | 50 ml | O | H2O
solvent | acetonitrile | 270 ml | C(C)#N | C2H3N
product | 1-(3-iodopropyl)pyrrol-2-acetonitrile | ICCCN1C(=CC=C1)CC#N | C9H11IN2
